US07115611B2
C] 2-{4-[2-Cyclopropyl-6-(4-trifluoromethoxy-phenyl)-4-trifluoromethyl-pyridin-3-ylmethoxy]-2-methyl-phenoxy}-2-methyl-propionic acid ethyl ester
In analogy to the procedure described in example 43E], 2-(4-hydroxy-2-methyl-phenoxy)-2-methyl-propionic acid ethyl ester (described in WO 02/092590) was reacted with [2-cyclopropyl-6-(4-trifluoromethoxy-phenyl)-4-trifluoromethyl-pyridin-3-yl]-methanol in the presence of N,N,N′,N′-tetramethylazodicarboxamide and tributylphosphine to give the title compound as colorless crystals.

reactant | 2-(4-hydroxy-2-methyl-phenoxy)-2-methyl-propionic acid ethyl ester | C(C)OC(C(C)(C)OC1=C(C=C(C=C1)O)C)=O | C13H18O4
reactant | [2-cyclopropyl-6-(4-trifluoromethoxy-phenyl)-4-trifluoromethyl-pyridin-3-yl]-methanol | C1(CC1)C1=NC(=CC(=C1CO)C(F)(F)F)C1=CC=C(C=C1)OC(F)(F)F | C17H13F6NO2
reactant | N,N,N′,N′-tetramethylazodicarboxamide | CN(C(=O)N=NC(=O)N(C)C)C | C6H12N4O2
reactant | tributylphosphine | C(CCC)P(CCCC)CCCC | C12H27P
product | 2-{4-[2-Cyclopropyl-6-(4-trifluoromethoxy-phenyl)-4-trifluoromethyl-pyridin-3-ylmethoxy]-2-methyl-phenoxy}-2-methyl-propionic acid ethyl ester | C(C)OC(C(C)(C)OC1=C(C=C(C=C1)OCC=1C(=NC(=CC1C(F)(F)F)C1=CC=C(C=C1)OC(F)(F)F)C1CC1)C)=O | C30H29F6NO5
